US06649643B1
Production of N-Cyclopropyl-6-[1-hydroxy-1-(1H-imidazol-4-yl)-2-methylpropyl)-2-naphthamide
To a solution of methyl 6-(1-hydroxy-2-methyl-1-(1-trityl-1H-imidazol-4-yl)propyl)-2-naphthoate (16.5 g) in THF (160 mL) was added methanol (35 mL) and 4N-NaOH (35 mL) at 60° C. The mixture was stirred for 2 h, neutralized with conc.HCl. The mixture was concentrated, diluted with water and extracted with ethyl acetate. The extract was concentrated to give crude mixture of 6-(1-hydroxy-2-methyl-1-(1-trityl-1H-imidazol-4-yl)propyl)-2-naphthoic acid. To a solution of the crude mixture was added cyclopropylamine (3.24 mL), 1-hydroxybenzotriazole (5.37 g) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (6.72 g) under ice cooling. The mixture was stirred at room temperature for 63 h, diluted with water and extracted with ethyl acetate. The extract was washed with brine, dried and concentrated. The residue was washed with diethyl ether to give the titled compound (17.6 g) as a colorless powder.

reactant | methyl 6-(1-hydroxy-2-methyl-1-(1-trityl-1H-imidazol-4-yl)propyl)-2-naphthoate | 16.5 g | OC(C(C)C)(C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C=1C=C2C=CC(=CC2=CC1)C(=O)OC | C38H34N2O3
reactant | NaOH | 35 mL | [OH-].[Na+]
reactant | HCl | Cl | ClH
reactant | 6-(1-hydroxy-2-methyl-1-(1-trityl-1H-imidazol-4-yl)propyl)-2-naphthoic acid | OC(C(C)C)(C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C=1C=C2C=CC(=CC2=CC1)C(=O)O | C37H32N2O3
reactant | cyclopropylamine | 3.24 mL | C1(CC1)N | C3H7N
reactant | 1-hydroxybenzotriazole | 5.37 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 6.72 g | Cl.CN(CCCN=C=NCC)C
solvent | THF | 160 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
solvent | methanol | 35 mL | CO | CH4O
product | N-Cyclopropyl-6-[1-hydroxy-1-(1H-imidazol-4-yl)-2-methylpropyl)-2-naphthamide | 17.6 g | C1(CC1)NC(=O)C1=CC2=CC=C(C=C2C=C1)C(C(C)C)(C=1N=CNC1)O | C21H23N3O2
